US06515011B2
EDC (0.402 g, 2.10 mmol) was added to a stirred mixture of N-{1-[2-(aminomethyl)-4-chlorobenzyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine (0.550 g, 1.61 mmol), N-Boc-L-proline (0.347 g, 1.61 mmol) and HOAT (0.286 g, 2.10 mmol) in DMF (2.8 mL). After 18 h the mixture was partitioned between EtOAc and water. The organic phase was washed with 1 M citric acid, saturated aqueous NaHCO3 and brine, dried (Na2SO4) and evaporated in vacuo to give N-(5-Chloro-2-{3,3-difluoro-2-[(4-methoxyphenyl)amino]propyl}benzyl)-1-tert-butoxycarbonyl-L-prolinamide (0.626 g) as an oil; MS m/z=538.4.

reactant | EDC | 2.10 mmol, 0.402 g
reactant | N-{1-[2-(aminomethyl)-4-chlorobenzyl]-2,2-difluoroethyl}-N-(4-methoxyphenyl)amine | 1.61 mmol, 0.550 g | NCC1=C(CC(C(F)F)NC2=CC=C(C=C2)OC)C=CC(=C1)Cl | C17H19ClF2N2O
reactant | N-Boc-L-proline | 1.61 mmol, 0.347 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | HOAT | 2.10 mmol, 0.286 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 2.8 mL | CN(C)C=O | C3H7NO
product | N-(5-Chloro-2-{3,3-difluoro-2-[(4-methoxyphenyl)amino]propyl}benzyl)-1-tert-butoxycarbonyl-L-prolinamide | 0.626 g | ClC=1C=CC(=C(CNC([C@H]2N(CCC2)C(=O)OC(C)(C)C)=O)C1)CC(C(F)F)NC1=CC=C(C=C1)OC | C27H34ClF2N3O4
